US05532255
A mixture of 1 g of ethyl 3-(4-(3-(4-amidinophenyl)-2-oxo-5-oxazolidinylmethyl)-1-piperazinyl)propionate, 0.2 g of NaOH, 8 ml of dioxane and 2 ml of water is stirred at 20° for 5 hours. After acidification and conventional work-up, 3-(4-(3-(4-amidinophenyl)-2-oxo-5oxazolidinylmethyl)-1-piperazinyl)propionic acid m.p. 269°, is obtained

reactant | ethyl 3-(4-(3-(4-amidinophenyl)-2-oxo-5-oxazolidinylmethyl)-1-piperazinyl)propionate | 1 g | C(N)(=N)C1=CC=C(C=C1)N1C(OC(C1)CN1CCN(CC1)CCC(=O)OCC)=O | C20H29N5O4
reactant | NaOH | 0.2 g | [OH-].[Na+]
reactant | dioxane | 8 ml | O1CCOCC1 | C4H8O2
solvent | water | 2 ml | O | H2O
product | 3-(4-(3-(4-amidinophenyl)-2-oxo-5oxazolidinylmethyl)-1-piperazinyl)propionic acid | C(N)(=N)C1=CC=C(C=C1)N1C(OC(C1)CN1CCN(CC1)CCC(=O)O)=O | C18H25N5O4
